US08791301B2
N-benzyl-2-iodoaniline was prepared using a system (FRX 200, Syrris Limited) including a microflow reactor. For this purpose, 329 mg (1.5 mmol) of 2-iodoaniline and 15 ml of dimethylformamide were added to the first storage unit of the system including the microflow reactor to dissolve the 2-iodoaniline, and then 112 mg (0.75 mmol) of cesium hydroxide was added thereto. Meanwhile, 156 μl (1.8 mmol) of allyl bromide and 15 ml of dimethylformamide were added to the second storage unit of the system, and then 112 mg (0.75 mmol) of cesium hydroxide was added thereto. The reactants included in the first and second storage units were transferred through the first and second flow channels to the mixing unit, and then transferred to the microflow reactor including microchannels through the third flow channel. The first and second flow channels could transfer 5 ml (2.5 ml for each flow channel) of the reactants to the microflow reactor. The microflow reactor was set at a capacity of 1 ml, a temperature of 236° C. and a pressure of 7 bar. The reactants in the first and second reactants were set such that they were passed through the first to third flow channels at a flow rate of 0.4 ml/min and introduced into the microflow reactor. Also, the residence time of the reactants in the microflow reactor was set to 2.5 minutes.

reactant | 2-iodoaniline | 1.5 mmol, 329 mg | IC1=C(N)C=CC=C1 | C6H6IN
reactant | cesium hydroxide | 0.75 mmol, 112 mg | [OH-].[Cs+]
reactant | allyl bromide | 1.8 mmol, 156 μl | C(C=C)Br | C3H5Br
reactant | cesium hydroxide | 0.75 mmol, 112 mg | [OH-].[Cs+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-benzyl-2-iodoaniline | C(C1=CC=CC=C1)NC1=C(C=CC=C1)I | C13H12IN
